US07371869B2
2-((S)-2-{2-tert-Butoxycarbonylamino-2-[4-(2-methoxy-ethoxy)-phenyl]-acetylamino}-3-phenyl-propionylamino)-thiazole-4-carboxylic acid methyl ester (a mixture of two epimers, R/S=85:15) (0.21 g, 0.343 mmol) was dissolved into dry dichloromethane (20 mL) and trifluoroacetic acid (2 mL, 26 mmol) was added. The reaction mixture was stirred at room temperature for 1 hour. The mixture was concentrated to dryness. The residue was cooled in an ice bath, then neutralized with saturated aqueous sodium bicarbonate solution. The mixture was extracted with ethyl acetate. The organic layer was separated, dried over sodium sulfate, and concentrated to give crude 2-((S)-2A2-amino-2-[4-(2-methoxy-ethoxy)-phenyl]-acetylamino}-3-phenyl-propionylamino)-thiazole-4-carboxylic acid methyl ester as a white foam (a mixture of two epimers, R/S=85:15) (0.16 g, 91%).

reactant | 2-((S)-2-{2-tert-Butoxycarbonylamino-2-[4-(2-methoxy-ethoxy)-phenyl]-acetylamino}-3-phenyl-propionylamino)-thiazole-4-carboxylic acid methyl ester | COC(=O)C=1N=C(SC1)NC([C@H](CC1=CC=CC=C1)NC(C(C1=CC=C(C=C1)OCCOC)NC(=O)OC(C)(C)C)=O)=O | C30H36N4O8S
reactant | trifluoroacetic acid | 26 mmol, 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | thiazole-4-carboxylic acid methyl ester | COC(=O)C=1N=CSC1 | C5H5NO2S
